US07449486B2
Step C: Preparation of tert-butyl 3-(5-(3-fluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)butylcarbamate:
To a solution of tert-butyl 3-(5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)butylcarbamate (50 mg, 116 mmol) in anhydrous DCM (5 mL) was added isobutyryl chloride (16 μL, 151 mmol) followed by triethylamine (21 μL, 151 mmol). After stirring at room temperature for 16 hours the mixture was partitioned between sat. NaHCO3 (20 mL) and DCM (20 mL). The aqueous layer was extracted with DCM (10 mL) and the combined organic phases were washed with brine (20 mL), dried over Na2SO4 and concentrated under reduced pressure. The residue was chromatographed (19:1, hexanes/ethyl acetate) to afford two diastereomeric pairs, diastereomer pair A (more polar, 13.1 mg) and diastereomer pair B (less polar, 11 mg).

reactant | tert-butyl 3-(5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)butylcarbamate | 116 mmol, 50 mg | FC=1C=C(C=CC1)C1=NNC(S1)(C1=CC=CC=C1)C(CCNC(OC(C)(C)C)=O)C | C23H28FN3O2S
reactant | isobutyryl chloride | 151 mmol, 16 μL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | triethylamine | 151 mmol, 21 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(5-(3-fluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)butylcarbamate | FC=1C=C(C=CC1)C1=NN(C(S1)(C1=CC=CC=C1)C(CCNC(OC(C)(C)C)=O)C)C(C(C)C)=O | C27H34FN3O3S
